US07345178B2
To a stirred solution of N-(3-hydroxypyridin-4-yl)-5-nitrothiophene-2-carboxamide (1.1 g, 4.1 mmol) in pyridine (5 mL) was added P2O5 (1.2 g, 8.3 mmol) and p-xylene (21 mL). After refluxing at 160° C. overnight, the reaction mixture was concentrated in vacuo and the residue was purified by chromatography on silica gel eluted with 5% of ethyl acetate in CH2Cl2 to give 2-(5-nitrothiophen-2-yl)oxazolo[5,4-c]pyridine as brown solid (174 mg, yield 17%). 1H NMR (400 MHz, CDCl3) δ: 8.97 (1H, s); 8.59 (1H, d, J=5.6); 7.94 (1H, d, J=4.4); 7.86 (1H, d, J=4.4), 7.69 (1H, d, J=5.6,0.8).

reactant | N-(3-hydroxypyridin-4-yl)-5-nitrothiophene-2-carboxamide | 4.1 mmol, 1.1 g | OC=1C=NC=CC1NC(=O)C=1SC(=CC1)[N+](=O)[O-] | C10H7N3O4S
reactant | P2O5 | 8.3 mmol, 1.2 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | p-xylene | 21 mL | CC=1C=CC(=CC1)C | C8H10
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(5-nitrothiophen-2-yl)oxazolo[5,4-c]pyridine | 174 mg, yield 17% | [N+](=O)([O-])C1=CC=C(S1)C=1OC=2C=NC=CC2N1 | C10H5N3O3S
